US05352678
Trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]-4-[(2,5-difluorophenyl)methyl]piperazine
The title compound was prepared from trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]piperazine and 2,5-difluorobenzyl bromide by the method described in example 15 to give the product (69%, mp: 85°-86° C.). Calc'd for C23H27F3N2 : C, 71.12%; H, 7.01%; N, 7.22%. Found: C, 71.11%; H, 7.01%; N, 7.19%.

reactant | trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]piperazine | FC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N1CCNCC1 | C16H23FN2
reactant | 2,5-difluorobenzyl bromide | FC1=C(CBr)C=C(C=C1)F | C7H5BrF2
product | Trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]-4-[(2,5-difluorophenyl)methyl]piperazine | FC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N1CCN(CC1)CC1=C(C=CC(=C1)F)F | C23H27F3N2
